US08048899B2
Bromine (182.0 g, 1.1 mol) is slowly added at −10° C. to a solution of 4-hydroxy-3,3-dimethyl-butan-2-one (120.0 g, 1.0 mol) in 700.0 mL of MeOH. The solution is slowly warmed up to room temperature and the reaction mixture is stirred for 2 h. Ethyl acetate and water are added to the reaction mixture, the two phases are separated, and the organic layer is washed with 10% K2CO3 solution. The organic layer is dried over anhydrous Na2SO4 and after filtration the solvent is removed under reduced pressure to afford the crude product that is purified by silica gel chromatography to afford 100.0 g of 1-bromo-4-hydroxy-3,3-dimethyl-butan-2-one as a brown liquid. Yield: 44%, over two steps; m/z 197 [M+H].

reactant | Bromine | 1.1 mol, 182.0 g | BrBr | Br2
reactant | 4-hydroxy-3,3-dimethyl-butan-2-one | 1.0 mol, 120.0 g | OCC(C(C)=O)(C)C | C6H12O2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | MeOH | 700.0 mL | CO | CH4O
product | 1-bromo-4-hydroxy-3,3-dimethyl-butan-2-one | 100.0 g, Yield: 44% | BrCC(C(CO)(C)C)=O | C6H11BrO2
